Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ is an ___ ___ woman with PMH of CAD 
(NSTEMI s/p stent left circumflex & RCA in ___, HTN, HLD, PVD 
and asthma who presents with dyspnea. Pt reports that the 
shortness of breath began during adult day-care today, around 
12PM. It began suddenly, which she states is usually the case 
for her asthma attacks. She was given O2 in the center and her 
SOB improved. The SOB worsened when she was off the O2 on her 
way home. Upon her arrival home, she appeared in distress to her 
daughter, tachypneic, and she had a supported fall. Her SOB did 
not improve with albuterol and so her daughter called an 
ambulance. She reports very mild CP associated with this attack 
today. She denies fevers, chills, palpitations, syncope, leg 
swelling, orthopnea, or PND.

She began having episodic SOB and was diagnosed with asthma 
about ___ years ago. She has been having daily SOB asthma attacks 
which usually improve with albuterol. However, possibly due to 
incorrect use of her inhaler, she is usually out of her 
albuterol before she can get another one. On a few occasions, 
she had to use her daughter's inhaler to control her attacks. 
She is not recieving any other treatment for her asthma at the 
moment. Today's attack seemed the most severe in these ___ years. 
 
In the ED, initial vital signs were 98.4 67 147/67 24 100% 10L 
Non-Rebreather. She initially required a non-rebreather. Chem-7 
and CBC with eosinophilia. Trop-T: <0.01, BNP EKG showed NSR @ 
54, LVH, lateral st depressions (old) no STE or new ischemic 
changes. CXR was negative for pulmonary edema or infiltrate. 
Patient was given duonebs x4, magnesium 2g, and 
methylprednisolone 125mg. Pt improved with treatment but still 
very tight on exam.

On transfer Vitals were BP 109/55 HR 58, RR 14, 99% O2 on 6L 
Neb. She feels much better, and reports no SOB or CP. 

Review of Systems:  
(+) per HPI+ dysuria, burning on urination, frequent urination.  
 
(-) fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, chest pain, 
abdominal pain, nausea, vomiting, diarrhea, constipation, BRBPR, 
melena, hematochezia, hematuria.  

 
Past Medical History:
- Asthma (diagnosed ___ years ago at age ___
- CAD, status post inferior NSTEMI with stent placement in L 
circumflex and RCA in ___ myocardial perfusion scan(___) 
- Medium size infarct involving the inferolateral wall w/ 
minimal ___ ischemia.Severe inferolateral hypokinesis. 
(EF: 64%. Cath ___: Patent PRCA stent, 40% mid vessel stenosis. 
Echo ___: Mild regional LV dysfunction with inferior lateral 
hypokinesis, EF 50%, ___ AR, ___  
- Hypertension  
- Peripheral vascular disease  
- Adjustment with depressed mood  
- s/p right eye cataract surgery (R eye ___ at ___)  
- s/p L eye cataract surgery ___ 
 
Social History:
___
Family History:
Asthma in brother, daughter and grandaughter.
Mother died in childbirth. 
No other known.

 
Physical Exam:
ADMISSION:  
VS: T 98.5, BP 140/68, HR 67, RR 20, ___, 
GENERAL: thin woman uncomfortable, somewhat tearful
HEENT: NC/AT PERRL EOMI, sclera anicteric, MMM OP clear   
NECK: supple, no LAD, no JVD, no thyromegaly
CARDIAC: distant sounds. RRR, S1, S2, no m/r/g
CHEST: somewhat scoliotic  
LUNG: some wheezing bilaterally. distant lung sounds
ABDOMEN: soft NT ND +BS no organomegally
GU: no foley
EXT: Severe arthritic changes in hands, ulnar deviation. WWP no 
c/c/e 2+ radial DP, ___, strength ___ BUE and BLE.     
Neuro: aaox3
Skin: no rashes, excoriations

Discharge:
Vitals: 98 (111-162/51-68) 67 20 98%/3L 
General: thin frail elderly female, lying in bed in NAD 
HEENT: NCAT, PERRL, EOMI, MMM, OP clear  
Neck: no LAD, no JVD
CV: distant heart sounds S1,S2 no murmurs 
Lungs: increased respiratory effort, poor air movement b/l, no 
whezzing
Abdomen: firm, NT ND, +BS no hepatomegaly
GU: no foley
Ext: cool, 1+DP, moving all 4 extremities  
Neuro: AAOx3, CN grossly intact no focal neurologic deficits
Skin: no rashes
 
Pertinent Results:
___ 04:19PM BLOOD WBC-6.5 RBC-4.24 Hgb-13.2 Hct-38.0 MCV-90 
MCH-31.1 MCHC-34.7 RDW-12.7 Plt ___
___ 04:19PM BLOOD Neuts-73.5* Lymphs-14.9* Monos-5.1 
Eos-5.8* Baso-0.7
___ 04:19PM BLOOD ___ PTT-34.5 ___
___ 04:19PM BLOOD Plt ___
___ 04:19PM BLOOD Glucose-134* UreaN-18 Creat-1.0 Na-133 
K-4.4 Cl-99 HCO3-24 AnGap-14
___ 04:19PM BLOOD cTropnT-<0.01
___ 04:19PM BLOOD Calcium-8.9 Phos-4.0 Mg-2.0
___ 04:31PM BLOOD Type-ART Temp-36.9 pO2-126* pCO2-44 
pH-7.38 calTCO2-27 Base XS-0 Intubat-NOT INTUBA Comment-O2 
DELIVER
___ 04:31PM BLOOD Lactate-1.1
___ 04:31PM BLOOD O2 Sat-98

URINE:
___ 06:41PM URINE Color-Straw Appear-Clear Sp ___
___ 06:41PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG
___ 06:41PM URINE RBC-<1 WBC-1 Bacteri-NONE Yeast-NONE 
Epi-0
___ 06:41PM URINE CastHy-1*
___ 06:41PM URINE Mucous-RARE

MICRO:
___ URINE URINE CULTURE-PENDING  
___  BLOOD CULTURE Blood Culture, Routine-PENDING  
___  BLOOD CULTURE Blood Culture, Routine-PENDING  

Imaging: 
CXR (___): Possible bilateral pleural effusions with small 
retrocardiac opacity consistent with atelectasis or 
consolidation.

Discharge: None

 
Brief Hospital Course:
Ms. ___ is an ___ ___ woman with PMH of CAD 
(NSTEMI with stent placement to left circumflex & RCA in ___, 
and asthma who presents with dyspnea from likely asthma 
exacerbation/reactive airway disease.

# SOB: Pt with severe dyspnea on admission with hypoxia 
requiring non-rebreather. Patient takes 
combivent(albuterol/ipratropium) and fluticasone as an 
outpatient consistent with reactive airway disease. Concurrent 
COPD is also a possibility with pt's smoking hx and increased 
severity of SOB. She was treated with steroids and 
albuterol/ipratropium nebulizers and her symptoms improved and 
she was able to be weaned to room air. On discharge her 
Ambulatory O2 sat was 93%RA and resting O2 sat 95%RA. She was 
discharged on prednisone 40mg for total 10 days, Advair, 
albuterol, and Spiriva. She was also provided with a nebulizer 
for albuterol. Should consider PFTs as an outpatient once 
current exacerbation resolves to determine underlying 
physiology. She was discharged with a nebulizer for albuterol 
treatments as well.

# CAD: Pt with prior NSTEMI with stent placement to left 
circumflex & RCA in ___. No current symptoms. We continued 
aspirin 81 mg daily and Plavix 75 mg tablet Daily. We switched 
atenolol 50 mg daily to metoprolol succinate 50mg daily. 

# HTN: BP stable. We Continued Imdur 30 mg Daily, losartan 100 
mg daily, and  
metoprolol succinate 50 mg daily.  

# HLD: We continued Lipitor 80 mg Daily.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Calcium Carbonate 600 mg PO BID 
2. Docusate Sodium 100 mg PO BID 
3. Albuterol-Ipratropium 2 PUFF IH Q6H 
4. Fluticasone Propionate 110mcg 2 PUFF IH BID 
5. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
hold for sbp<100 
6. Atorvastatin 80 mg PO DAILY 
7. Nitroglycerin SL 0.3 mg SL PRN chest pain 
8. Clopidogrel 75 mg PO DAILY 
9. Acetaminophen 1000 mg PO Q8H:PRN pain 
10. Aspirin 81 mg PO DAILY 
11. Atenolol 50 mg PO DAILY 
12. Losartan Potassium 100 mg PO DAILY 
hold for SBP<100 
13. Mirtazapine 15 mg PO HS 
14. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
15. Senna 1 TAB PO DAILY 
16. Vitamin D 400 UNIT PO BID 

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H:PRN pain 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 80 mg PO DAILY 
4. Calcium Carbonate 600 mg PO BID 
5. Clopidogrel 75 mg PO DAILY 
6. Docusate Sodium 100 mg PO BID 
7. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
8. Losartan Potassium 100 mg PO DAILY 
9. Mirtazapine 15 mg PO HS 
10. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
11. Senna 1 TAB PO DAILY 
12. Vitamin D 400 UNIT PO BID 
13. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN wheezing SOB 
RX *albuterol sulfate 2.5 mg/3 mL (0.083 %) 2.5 mg NEB Q4H:PRN 
Disp #*60 Vial Refills:*0
14. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
RX *fluticasone-salmeterol [Advair Diskus] 250 mcg-50 mcg/Dose 1 
IH INH twice a day Disp #*1 Inhaler Refills:*0
15. Metoprolol Succinate XL 50 mg PO DAILY 
hold for HR<60 or BP<100 
RX *metoprolol succinate 50 mg 1 tablet extended release 24 
hr(s) by mouth Daily Disp #*30 Tablet Refills:*0
16. PredniSONE 40 mg PO DAILY Duration: 9 Days 
RX *prednisone 20 mg 2 tablet(s) by mouth Daily Disp #*18 Tablet 
Refills:*0
17. Tiotropium Bromide 1 CAP IH DAILY 
RX *tiotropium bromide [Spiriva with HandiHaler] 18 mcg 1 CAP IH 
Daily Disp #*30 Capsule Refills:*0
18. Nitroglycerin SL 0.3 mg SL PRN chest pain 
19. Albuterol Inhaler 2 PUFF IH Q4H:PRN asthma 
Please use either the albuterol inhaler or nebulizer and not 
together at the same time. 
RX *albuterol sulfate 90 mcg 2 PUFF IH every four (4) hours Disp 
#*1 Inhaler Refills:*0
20. Nebulizer machine
Diagnosis: Reactive Airway Disease
Needed for albuterol treatments
21. Inhaler spacer
Please provide an inhaler spacer for albuterol inhaler.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Hypoxia secondary to reactive airway disease

Secondary:
CAD
HTN
HLD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___. You came to the 
hospital because you were short of breath. We found that you 
have reactive airway disease. You were treated with steroids and 
nebulizers which improved your symptoms. We have made 
adjustments to your medications as outlined below.
 
Followup Instructions:
___